US09326987B2
4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-6-(1H-indol-4-yl)-1-methyl-1H-indazole
6-Bromo-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-methyl-1H-indazole (50 mg, 0.123 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (32.9 mg, 0.135 mmol), sodium carbonate (39.1 mg, 0.369 mmol) and 1,1-bis(diphenylphosphino)ferrocene palladium dichloride) (9.00 mg, 0.012 mmol) were added to a microwave vial and dissolved in 1,4-dioxane (0.5 ml) and water (0.5 ml). The reaction mixture was heated under microwave irradiation at 110° C. for 15 mins. The reaction mixture was passed through a 2 g silica cartridge that was then washed with methanol. The solvent was evaporated under a stream of nitrogen and the residual solid was purified by silica (20 g) cartridge using a gradient of ethyl acetate and cyclohexane to give the title compound as a white solid (5.5 mg).

reactant | 6-Bromo-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-methyl-1H-indazole | 0.123 mmol, 50 mg | BrC1=CC(=C2C=NN(C2=C1)C)C=1OC(=NN1)CN1C[C@H](O[C@H](C1)C)C | C17H20BrN5O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.135 mmol, 32.9 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | sodium carbonate | 0.369 mmol, 39.1 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
product | 4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-6-(1H-indol-4-yl)-1-methyl-1H-indazole | 5.5 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C1=C2C=CNC2=CC=C1)C | C25H26N6O2
